US08557853B2
(3-Chloro-2-fluoro-phenyl)-acetic acid:
1-Bromomethyl-3-chloro-2-fluoro-benzene (10.00 g, 44.80 mmol) and KCN (5.80 g, 89.07 mmol) were mixed in DMF and the resulting reaction mixture was stirred at 75° C. for 2 days. The reaction mixture was cooled to room temperature, and water was added. The mixture was extracted with Et2O (3×300 mL). The combined organic phases were washed with H2O (2×200 mL) and brine (1×200 mL), then dried over MgSO4 and concentrated. The crude nitrile was taken up in water and KOH (5.00 g, 89.11 mmol) was added. The resulting mixture was refluxed for 14 hours. After cooling to room temperature, the reaction mixture was diluted with water and washed with Et2O (2×150 mL). The aqueous layer was acidified with concentrated HCl and was extracted with Et2O (3×300 mL). The combined organic phases were washed with H2O (2×200 mL) and brine (1×200 mL), then dried over MgSO4 and concentrated to afford the title acid.

reactant | 1-Bromomethyl-3-chloro-2-fluoro-benzene | 44.80 mmol, 10.00 g | BrCC1=C(C(=CC=C1)Cl)F | C7H5BrClF
reactant | KCN | 89.07 mmol, 5.80 g | [C-]#N.[K+]
reactant | KOH | 89.11 mmol, 5.00 g | [OH-].[K+]
reactant | DMF | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (3-Chloro-2-fluoro-phenyl)-acetic acid | ClC=1C(=C(C=CC1)CC(=O)O)F | C8H6ClFO2
